### PR TITLE
[Merged by Bors] - feat(NumberField): define the `maximalRealSubfield` of a number field

### PR DESCRIPTION
**Pull request by xroblot**
Define the `maximalRealSubfield` of a number field. It is a totally real subfield that contains all other totally real subfields. 

Add also a couple of instances about the fact that subfields of a totally real field are totally real. 

---

- [x] depends on: #24137 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 1]
```diff
@@ -1187,12 +1193,31 @@ is a subset of `ℝ`. -/
 @[mk_iff] class IsTotallyReal (K : Type*) [Field K] [NumberField K] where
   isReal : ∀ v : InfinitePlace K, v.IsReal
 
-variable {K : Type*} [Field K] [NumberField K]
+variable (F : Type*) [Field F] [NumberField F] {K : Type*} [Field K] [NumberField K]
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1196]: Why don't you declare `F` implicit straight away? It seems to me that this is what you want in `IsTotallyReal.ofRingEquiv`  and `F` does not appear in `nrComplexPlaces_eq_zero_iff`.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 2]
```diff
@@ -1187,12 +1193,31 @@ is a subset of `ℝ`. -/
...
 
 theorem nrComplexPlaces_eq_zero_iff :
     nrComplexPlaces K = 0 ↔ IsTotallyReal K := by
   simp [Fintype.card_eq_zero_iff, isEmpty_subtype, isTotallyReal_iff]
 
+variable {F} in
+theorem IsTotallyReal.ofRingEquiv [IsTotallyReal F]
+     (f : F ≃+* K) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1204]:
```suggestion
theorem IsTotallyReal.ofRingEquiv [IsTotallyReal F] (f : F ≃+* K) :
```

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 3]
```diff
@@ -1209,6 +1234,57 @@ instance : IsTotallyReal ℚ where
     rw [Subsingleton.elim v Rat.infinitePlace]
     exact Rat.isReal_infinitePlace
 
+section maximalRealSubfield
+
+open ComplexEmbedding
+
+/--
+The maximal real subfield of `K`. It is totally real, see `isTotallyReal_maximalRealSubfield`, and
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1242]: Can you add the corresponding `doc`  at the top of the file?

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 4]
```diff
@@ -1209,6 +1234,57 @@ instance : IsTotallyReal ℚ where
...
+  rw [show φ x = (φ.comp E.subtype) ⟨x, hx⟩ by rfl, RCLike.star_def, ← conjugate_coe_eq]
+  refine RingHom.congr_fun ?_ _
+  exact ComplexEmbedding.isReal_iff.mp  <| isReal_mk_iff.mp <| isReal _
+
+theorem isTotallyReal_iff_le_maximalRealSubfield {E : Subfield K} :
+    IsTotallyReal E ↔ E ≤ maximalRealSubfield K :=
+  ⟨fun h ↦ h.le_maximalRealSubfield, fun h ↦ IsTotallyReal.ofRingEquiv
+    (RingEquiv.ofBijective _ (Subfield.inclusion h).rangeRestrictField_bijective).symm⟩
+
+-- Note sure if this should be an instance or a theorem
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1276]: Why so? We've got [Subfield.instMin](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Field/Subfield/Basic.html#Subfield.instMin) as an instance, so see no reason why it should not be an instance.

Same comment for the one below.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 5]
```diff
@@ -1225,7 +1301,11 @@ A number field `K` is totally complex if all of its infinite places are complex.
 @[mk_iff] class IsTotallyComplex (K : Type*) [Field K] [NumberField K] where
   isComplex : ∀ v : InfinitePlace K, v.IsComplex
 
-variable {K : Type*} [Field K] [NumberField K]
+variable {F : Type*} [Field F] [NumberField F] {K : Type*} [Field K] [NumberField K]
+
+theorem IsTotallyComplex.ofRingEquiv [IsTotallyComplex F] (f : F ≃+* K) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/Embeddings.lean:1306]: Is this needed for this PR? If not, I do not suggest to split it into another one, but perhaps add a comment in the PR description.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean [hunk 6]
```diff
@@ -146,9 +146,8 @@ open Complex NumberField
 
 open scoped ComplexConjugate
 
-variable {K : Type*} [Field K] {k : Type*} [Field k]
+variable (K : Type*) [Field K] {k : Type*} [Field k]
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:149]: The only explicit data given in these results is `φ : k →+* ℂ` so far, but  I think it is more convenient to also give `K`. I didn't do that in the previous PR where I introduced these results because I did really use them there.

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1306]: I removed it. I'll add it in a later PR when I'll need it

**Comment by xroblot** [comment]
> It certainly LGTM, but given the previous issues, I'd like to get an opinion from @jcommelin .

Thanks for the review!

File: Mathlib/NumberTheory/NumberField/Embeddings.lean (hunk 3 above)
Comment (faenuccio) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1238]: Not sure to understand what you mean...

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1238]: The file `NumberField.Embeddinds` has been split in the meantime.

Comment (faenuccio) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean:1238]: OK, so ping me again once this is done!

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Embeddings.lean]: @faenuccio Should be okay now

File: Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean [hunk 7]
```diff
@@ -62,6 +78,55 @@ instance : IsTotallyReal ℚ where
     rw [Subsingleton.elim v Rat.infinitePlace]
     exact Rat.isReal_infinitePlace
 
+section maximalRealSubfield
+
+open ComplexEmbedding
+
+/--
+The maximal real subfield of `K`. It is totally real, see `isTotallyReal_maximalRealSubfield`, and
```
Comment (faenuccio) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean:86]: Is `isTotallyReal_maximalRealSubfield` in `_root`? I am sorry for not checking myself, I am not at VSCode, but if not the doc HTML won't work as expected. Also, why not mentioning at least part of this doc at the top of the file?

Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean:86]: Good point. I added the namespace to the docstring of the definition and completed the one at the top of the file. Thanks!

Comment (faenuccio) [reply Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean]: Thanks!

**Comment by faenuccio** [comment]
Thanks!

maintainer merge

File: Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean [hunk 8]
```diff
@@ -40,12 +43,27 @@ is a subset of `ℝ`. -/
...
 
 theorem nrComplexPlaces_eq_zero_iff :
     nrComplexPlaces K = 0 ↔ IsTotallyReal K := by
   simp [Fintype.card_eq_zero_iff, isEmpty_subtype, isTotallyReal_iff]
 
+theorem IsTotallyReal.ofRingEquiv [IsTotallyReal F] (f : F ≃+* K) : IsTotallyReal K where
+  isReal _ := (isReal_comap_iff f).mp <| IsTotallyReal.isReal _
+
+variable (F K) in
+theorem IsTotally.of_algebra [IsTotallyReal K] [Algebra F K] : IsTotallyReal F where
```
Comment (jcommelin) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/TotallyRealComplex.lean:56]:
```suggestion
theorem IsTotallyReal.of_algebra [IsTotallyReal K] [Algebra F K] : IsTotallyReal F where
```

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
